US07067517B2
5-(5-Trifluoromethyl-pyridin-2-yloxy)-pyridin-2-ol
A mixture of 2-methoxy-5-(5-trifluoromethyl-pyridin-2-yloxy)-pyridine (0.28 g, 1.04 mmol) and pyridine hydrochloride (1.00 g, 8.65 mmol) was heated in a kugelrohr oven at 200° C. for 10 minutes. After cooling to room temperature, the reaction mixture is dissolved in dichloromethane and extracted with water, dried over sodium sulphate, filtered and evaporated in vacuo, yielding the title compound (180 mg, 68% yield) as a white solid.

reactant | 2-methoxy-5-(5-trifluoromethyl-pyridin-2-yloxy)-pyridine | 1.04 mmol, 0.28 g | COC1=NC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C12H9F3N2O2
reactant | pyridine hydrochloride | 8.65 mmol, 1.00 g | Cl.N1=CC=CC=C1
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(5-Trifluoromethyl-pyridin-2-yloxy)-pyridin-2-ol | 180 mg, 68% yield | FC(C=1C=CC(=NC1)OC=1C=CC(=NC1)O)(F)F | C11H7F3N2O2
